US08232409B2
A. 2′-Fluoro-3-nitro-6′-trifluoromethoxy-biphenyl-4-ylamine
2-Fluoro-1-iodo-6-trifluoromethoxybenzene (612 mg, 2.00 mmol, prepared as described in WO2005/097136), 4-amino-3-nitrophenylboronic acid pinacol ester (1.3 eq., 687 mg, 2.60 mmol), and (dppf)PdCl2.DCM (0.05 eq., 81.6 mg, 0.100 mmol) were placed in a 40 mL vial equipped with a magnetic stir bar. The vial was evacuated and backflushed with Ar, and DME (10 mL) and 2M aq Na2 CO3 (4 mL) were added via syringe. The vial was capped tightly and placed in a heating block where the reaction was stirred at 90° C. for 24 h. The reaction was cooled to room temperature, diluted with EtOAc, and washed sequentially with water and brine. The organic extract was dried over anhydrous MgSO4, filtered, and the solvent was removed under reduced pressure. The crude product was purified by column chromatography using an 80-g SiO2 pre-packed column eluting with EtOAc/hexanes, 0:1 to 2:3, v/v over 30 min, yielding 548 mg (87%) of the desired compound. 1H-NMR (400 MHz, CDCl3) δ: 8.21 (s, 1H), 7.30-7.47 (m, 2H), 7.18 (d, J=8.1 Hz, 1H), 7.14 (t, J=8.6 Hz, 1H), 6.91 (d, J=6.6 Hz, 1H), 5.37 (br. s., 2H).

reactant | 2-Fluoro-1-iodo-6-trifluoromethoxybenzene | 2.00 mmol, 612 mg | FC1=C(C(=CC=C1)OC(F)(F)F)I | C7H3F4IO
reactant | 4-amino-3-nitrophenylboronic acid pinacol ester | 2.60 mmol, 687 mg, 1.3 eq. | NC1=C(C=C(C=C1)B1OC(C)(C)C(C)(C)O1)[N+](=O)[O-] | C12H17BN2O4
reactant | DCM | 0.100 mmol, 81.6 mg, 0.05 eq. | C(Cl)Cl | CH2Cl2
catalyst | (dppf)PdCl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2′-Fluoro-3-nitro-6′-trifluoromethoxy-biphenyl-4-ylamine | 548 mg, 87% | FC1=C(C(=CC=C1)OC(F)(F)F)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C13H8F4N2O3
